US06924278B2
To a stirred solution of 4-bromo-2-methylbenzoic acid (10.75 g) in tetrahydrofuran (50 ml) was added borane-tetrahydrofuran complex (1 M in tetrahydrofuran, 150 ml) by syringe under nitrogen atmosphere at 5° C. and the mixture was heated under reflux for 18 hours. After cooling, water (50 ml) and potassium carbonate (20 g) were added to the solution at 5° C. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined extract was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure to give 4-bromo-2-methylbenzyl alcohol (9.55 g). This compound was used to the next reaction without further purification.

reactant | 4-bromo-2-methylbenzoic acid | 10.75 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | borane tetrahydrofuran | 1 M, 150 ml | B.O1CCCC1
reactant | water | 50 ml | O | H2O
reactant | potassium carbonate | 20 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-bromo-2-methylbenzyl alcohol | 9.55 g | BrC1=CC(=C(CO)C=C1)C | C8H9BrO
